US08580841B2
Step E: Preparation of 2-(7-(4-(Cyclohexylmethyl)-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid.
To a stirred solution of ethyl 2-(7-(4-(cyclohexylmethyl)-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (40 mg, 0.078 mmol) in dioxane was added 1 M LiOH aqueous solution (0.39 mL, 0.39 mmol). The reaction mixture was stirred at room temperature for 5 h. The solvent was partly removed, then diluted with water, acidified with HCl solution. The pinkish solid was collect and dried to give the title compound (19.5 mg). LCMS m/z=486.3 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 0.96-1.06 (m, 2H), 1.14-1.22 (m, 3H), 1.55-1.70 (m, 6H), 2.05-2.10 (m, 1H), 2.40 (dd, J=16.0 and 9.0 Hz, 1H), 2.62-2.75 (m, 6H), 3.42-3.50 (m, 1H), 5.12 (s, 2H), 6.72 (dd, J=8.7 and 2.4 Hz, 1H), 6.94 (d, J=2.4 Hz, 1H), 7.21 (d, J=8.8 Hz, 1H), 7.45 (d, J=8.0 Hz, 1H), 7.66 (d, J=7.8 Hz, 1H), 7.75 (s, 1H), 10.48 (s, 1H), 12.20 (br, 1H).

reactant | ethyl 2-(7-(4-(cyclohexylmethyl)-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 0.078 mmol, 40 mg | C1(CCCCC1)CC1=C(C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)OCC)C=C1)C(F)(F)F | C30H34F3NO3
reactant | LiOH | 0.39 mmol, 1 M, 0.39 mL | [Li+].[OH-]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(7-(4-(Cyclohexylmethyl)-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid | 19.5 mg | C1(CCCCC1)CC1=C(C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)O)C=C1)C(F)(F)F | C28H30F3NO3
